### ISSUE TITLE
`linarith`, `nlinarith`, `omega`, and `bound` don't work for the positive integer type `ℕ+`

### ISSUE THREAD

**Issue by ShreckYe** [leanprover-community/mathlib4#23356]
See the example code:

```lean
import Mathlib

example : ∀ n : ℕ, n ≥ 1 → n ≥ 1 := by intros; linarith
example : ∀ n : ℕ+, n ≥ 1 → n ≥ 1 := by intros; linarith -- fails
example : ∀ n : ℕ, n ≥ 1 → n ≥ 1 := by intros; nlinarith
example : ∀ n : ℕ+, n ≥ 1 → n ≥ 1 := by intros; nlinarith -- fails
example : ∀ n : ℕ, n ≥ 1 → n ≥ 1 := by intros; omega
example : ∀ n : ℕ+, n ≥ 1 → n ≥ 1 := by intros; omega -- fails
example : ∀ n : ℕ, n ≥ 1 → n ≥ 1 := by intros; bound
example : ∀ n : ℕ+, n ≥ 1 → n ≥ 1 := by intros; bound -- this works, however
example : ∀ n : ℕ, n ≥ 1 ∧ n ≤ 1 → n = 1 := by intros; bound
example : ∀ n : ℕ+, n ≥ 1 ∧ n ≤ 1 → n = 1 := by intros; bound -- fails

```

**Comment by vasnesterov** [comment]
`linarith` and `nlinatirh` fails because `ℕ+` is not `LinearOrderedCommRing`, `omega` fails because it's not one of its supported types (Nat, Int, and Fin IIRC). It's expected behavior of these tactics.

There is `pnat_to_nat` tactic that could help:
```lean
example : ∀ n : ℕ+, n ≥ 1 → n ≥ 1 := by
  intros
  pnat_to_nat
  omega
```

**Comment by ShreckYe** [comment]
Got it. Thanks for explaining.
